US06248765B1
A mixture of 4 g (0.029 mol) of 3-aminoacetophenone and 2.47 ml (0.044 mol; 1.5 equivalents) of ethylene glycol and a small amount of 4-toluenesulphonic acid in 60 ml of anhydrous benzene are heated to reflux with azeotropic removal of water for 4 hours. The solution is left to cool, washed successively with 20% aqueous sodium carbonate and water and then dried (MgSO4). The solvent is evaporated off under reduced pressure to leave a yellow oil, which is purified by chromatography on a column of silica gel using a diethyl ether/petroleum ether (1:1) mixture as eluent, and then crystallized in hexane to yield 3-(2-methyl-1,3-dioxolan-2-yl)aniline, m.p. 75-77° C.

reactant | 3-aminoacetophenone | 0.029 mol, 4 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | ethylene glycol | 0.044 mol, 2.47 ml, 1.5 equivalents | C(CO)O | C2H6O2
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-methyl-1,3-dioxolan-2-yl)aniline | CC1(OCCO1)C=1C=C(N)C=CC1 | C10H13NO2
